US06852867B2
To 60 mL of water, 15.8 g (90.8 mmol) of sodium hydrosulfite, 50 mL of ethyl acetate, 10.0 g (45.5 mmol) of 2,6-di-tert-butyl-1,4-benzoquinone and 1.04 g (4.57 mmol) of benzyltriethylammonium chloride were added and the mixture was stirred for 1 hour at 25° C. The reaction mixture was subjected to liquid-liquid separation and the aqueous layer was discarded. The organic layer was washed with 20 mL of 10% aqueous sodium chloride and the solvent was distilled off under reduced pressure to give 2,6-di-tert-butylhydroquinone.

reactant | water | 60 mL | O | H2O
reactant | sodium hydrosulfite | 90.8 mmol, 15.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2,6-di-tert-butyl-1,4-benzoquinone | 45.5 mmol, 10.0 g | C(C)(C)(C)C=1C(C(=CC(C1)=O)C(C)(C)C)=O | C14H20O2
catalyst | benzyltriethylammonium chloride | 4.57 mmol, 1.04 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2,6-di-tert-butylhydroquinone | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
